US06534546B1
Synthesis of N-(2-methoxy-5-nitrophenylmethyl)phthalimide
Potassium phthalimide (836 mg) was added to a solution of 2-methoxy-5-nitrobenzyl bromide (1.01 g) in dimethylformamide (41 ml) and stirred at room temperature for 10 minutes. Water and 2 N HCl were added to the reaction mixture and extraction was performed with ethyl acetate; then, the organic layer was washed successively with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was washed successively with ethyl acetate and hexane to give 1.2 g of the titled compound (yield, 94%).

reactant | Potassium phthalimide | 836 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 2-methoxy-5-nitrobenzyl bromide | 1.01 g | COC1=C(CBr)C=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
reactant | Water | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | dimethylformamide | 41 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-methoxy-5-nitrophenylmethyl)phthalimide | 1.2 g, 94% | COC1=C(C=C(C=C1)[N+](=O)[O-])CN1C(C=2C(C1=O)=CC=CC2)=O | C16H12N2O5
